US05380739
A mixture of 3.0 g (0.02 mol) of 2-cyanoindole, 4.2 g (0.02 mol) of tert-butyl-4-fluorobenzoate, and 5.5 g (0.04 mol) of potassium carbonate in 30 ml dimethyl sulfoxide was heated at 110° C. for 48 hours. The reaction was poured onto ice-water and extracted twice with ethyl acetate. The organic extracts were combined, washed with water and dried over magnesium sulfate. Evaporation yielded a dark oil which was flash chromatographed on silica gel, eluting with ethyl acetate-hexane 1:9 to give 3.6 g (0.011 mol) of 1-[4-(tertbutoxycarbonyl)phenyl]-2-cyanoindole as an oil.

reactant | 2-cyanoindole | 0.02 mol, 3.0 g | C(#N)C=1NC2=CC=CC=C2C1 | C9H6N2
reactant | tert-butyl-4-fluorobenzoate | 0.02 mol, 4.2 g | C(C)(C)(C)OC(C1=CC=C(C=C1)F)=O | C11H13FO2
reactant | potassium carbonate | 0.04 mol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 1-[4-(tertbutoxycarbonyl)phenyl]-2-cyanoindole | 0.011 mol, 3.6 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C#N | C20H18N2O2
